US07875647B2
Step 3: 5-(4-chlorophenyl)-N-(2-cyclohexyl-2-oxoethyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide
To a tert-butyl 2-cyclohexyl-2-oxoethylcarbamate (228 mg, 0.946 mmol) in DCM (5 mL) was added 4M HCl in 1,4-dioxane (5 mL) at room temperature. The reaction continued for an hour at room temperature. The volatiles were removed under vacuum. To the residue (2-amino-1-cyclohexylethanone hydrochloric acid), 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylic acid (361 mg, 0.946 mmol), EDCI (272 mg, 1.429 mmol), HOBt (192 mg, 1.429 mmol) in DMF (9 mL) was added NMM (1.0 mL, 9.46 mmol) at room temperature. The reaction mixture was stirred at room temperature overnight. The residue was purified by reverse-phase prep HPLC to afford the title compound (232 mg, 49%).

reactant | tert-butyl 2-cyclohexyl-2-oxoethylcarbamate | 0.946 mmol, 228 mg | C1(CCCCC1)C(CNC(OC(C)(C)C)=O)=O | C13H23NO3
reactant | HCl | 4M | Cl | ClH
reactant | 2-amino-1-cyclohexylethanone hydrochloric acid | Cl.NCC(=O)C1CCCCC1
reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylic acid | 0.946 mmol, 361 mg | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)C | C17H11Cl3N2O2
reactant | EDCI | 1.429 mmol, 272 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.429 mmol, 192 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 9.46 mmol, 1.0 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 5-(4-chlorophenyl)-N-(2-cyclohexyl-2-oxoethyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide | 232 mg, 49% | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)NCC(=O)C1CCCCC1)C | C25H24Cl3N3O2
